US04118507
R = 4-phenoxy. Heating a mixture of 4-iodoveratrol (Janssen et al., J. Org. Chem. 20, 1326 (1955)), sodium phenoxide and a catalytic amount of copper powder at about 200° C. for about 4 hours, then pouring the mixture over ice, extracting the mixture with an organic solvent such as ether, drying the extract, stripping the solvent and distilling the residue to give 4-phenoxycatechol dimethyl ether. Treating this product with an anhydrous aluminum chloride/sodium chloride melt (Janssen et al., supra), pouring the resulting mixture into ice-hydrochloric acid, extracting the mixture with an organic solvent, stripping the solvent under reduced pressure and fractionally distilling the residue gives the desired 4-phenoxycatechol.

reactant | 4-iodoveratrol | IC=1C=C(C(=CC1)OC)OC | C8H9IO2
reactant | sodium phenoxide | [O-]C1=CC=CC=C1.[Na+]
catalyst | copper | [Cu] | Cu
product | 4-phenoxycatechol dimethyl ether | COC=1C(OC)=CC(=CC1)OC1=CC=CC=C1 | C14H14O3
